data/core_train_final.csv
"[H:3][C:2]([H:9])([CH3:1])[CH:4]([CH2:5][CH3:6])[CH2:7][CH3:8].[Cl:10]>>[H:3][C:2]([CH3:1])[CH:4]([CH2:5][CH3:6])[CH2:7][CH3:8].[H:9][Cl:10] 10-10,9;2,9-9,10;2,9-2",Room Temperature,Propagation,abstraction
"CCCCCCCCCCCCSC[CH:10]C(=O)OCC.CCOC(=O)[CH:21]=[CH2:20]>>CCCCCCCCCCCCSC[CH:10]([CH2:20][CH:21]C(=O)OCC)C(=O)OCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:4][O:3][C:2](=[O:1])[C:5]1=[CH:6][N:7]([CH2:22][CH2:23][CH2:24]1)[C:8](=[O:21])[CH2:9][CH2:10][CH:11][N:12]2[CH:13]=[CH:14][C:15]3=[C:16]2[CH:17]=[CH:18][CH:19]=[CH:20]3>>[CH3:4][O:3][C:2](=[O:1])[C:5]1[CH2:24][CH2:23][CH2:22][N:7]2[CH:6]1[CH:11]([CH2:10][CH2:9][C:8]2=[O:21])[N:12]3[CH:13]=[CH:14][C:15]4=[C:16]3[CH:17]=[CH:18][CH:19]=[CH:20]4 11-11,6; 5,6-5; 5,6-11,6",Room Temperature,Propagation,addition
"[H:1][C:2]1([CH2:7][CH2:6][CH2:5][O:4]1)[H:3].[O:8][O:9]>>[H:1][C:2]1[CH2:7][CH2:6][CH2:5][O:4]1.[H:3][O:9][O:8] 9-3,9;2,3-3,9;2,3-2",Room Temperature,Propagation,abstraction
"[H:3][C:2]([CH3:1])([CH3:4])[C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1.[CH3:11][C:12]([CH3:13])([C:16]1=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]1)[O:14][O:15]>>[H:3][O:15][O:14][C:12]([CH3:11])([CH3:13])[C:16]1=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]1.[CH3:1][C:2]([CH3:4])[C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1 3,2-2; 3,2-3,15; 15-3,15",Room Temperature,Propagation,abstraction
"[H:8][C:7]1=[CH:6][C:5]([CH:13]=[C:10]([C:9]1=[O:14])[O:11][CH3:12])[CH:4]=[CH:3][C:2](=[O:15])[O-:1]>>[H:8][C:7]1[CH:6]=[C:5]([CH:13]=[C:10]([C:9]1=[O:14])[O:11][CH3:12])[CH:4]=[CH:3][C:2](=[O:15])[O-:1] 5-5,6; 6,7-5,6; 6,7-7",Room Temperature,Propagation,resonance
"[H:20][CH2:21]C(=C(C)C)C.[Br:10]>>[H:20][Br:10].CC(=C(C)[CH2:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[He:17].[CH2:15]1[CH2:16][CH:12]([CH:13]=[CH:14]1)[CH2:11][C:2](=[O:1])[O:3][N:4]2[CH:5]=[CH:6][CH:7]=[CH:8][C:9]2=[S:10]>>[He:17].[CH2:15]1[CH2:16][CH:12]([CH:13]=[CH:14]1)[CH2:11][C:2](=[O:1])[O:3].[CH:7]1=[CH:8][C:9](=[S:10])[N:4][CH:5]=[CH:6]1 3,4-3; 3,4-4",Room Temperature,Initiation,homolyze
"[CH3:1][C:2]1([CH:12]2[CH2:13][CH:4]1[C:5]3([CH:10]([CH2:11]2)[O:9][O:8][O:7]3)[CH3:6])[CH3:3]>>[CH3:1][C:2]1([CH:12]2[CH2:13][CH:4]1[C:5]([CH:10]([CH2:11]2)[O:9][O:8])([CH3:6])[O:7])[CH3:3] 7,8-7; 7,8-8",Room Temperature,Initiation,homolyze
"C1=C[CH:10]C(C=C1)Cl.[Cl:20][Cl:21]>>C1=C[CH:10](C(C=C1)Cl)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]1([CH2:5][CH:2]1[CH3:1])[H:6].[Cl:7]>>[H:4][C:3]1[CH2:5][CH:2]1[CH3:1].[H:6][Cl:7] 7-7,6;6,3-6,7;3,6-3",Room Temperature,Propagation,abstraction
"[CH2:17]1[CH2:16][CH:15]=[CH:14][CH:13]([CH2:18]1)[N:5]([CH2:6][C:7]2=[CH:8][CH:9]=[CH:10][CH:11]=[CH:12]2)[C:4](=[O:19])[C:2]([Cl:1])[Cl:3]>>[CH2:17]1[CH2:16][CH:15][CH:14]2[CH:13]([CH2:18]1)[N:5]([C:4](=[O:19])[C:2]2([Cl:1])[Cl:3])[CH2:6][C:7]3=[CH:8][CH:9]=[CH:10][CH:11]=[CH:12]3 2-2,14; 14,15-15; 14,15-15; 14,15-2,14",Room Temperature,Propagation,addition
"C[CH2:10].Cl.[Cl:20][Cl:21]>>C[CH2:10][Cl:20].Cl.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(C)Cl.[Cl:20][Cl:21]>>CCCC(C)Cl.[Cl:20].[Cl:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC[Sn:10](CCCC)CCCC.C=CCC[CH:21](CCOC1=CC=CC=C1)[Br:20]>>CCCC[Sn:10](CCCC)(CCCC)[Br:20].C=CCC[CH:21]CCOC1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[C:21](F)(F)([Cl:20])Cl.[He]>>[He].[C:21](F)(F)Cl.[Cl:20] 20,21-20;20,21-21",Light,Initiation,homolyze
"CC1CCC1.[Cl:20][Cl:21].[He]>>[He].CC1CCC1.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"CC(C)(C)[CH2:10].[Cl:20][Cl:21]>>CC(C)(C)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H][O:20][O:21]N=O>>[H][O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:20]1CC(C1)(C)C.[Cl:10][Cl:11]>>CC1(C[C:20](C1)(C)[Cl:10])C.[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"O=C([O:20][N:12]1C=CC=C[C:11]1[S:10]Br)C2=CC=CC=C2>>Br[S:10][C:11]3=[N:12]C=CC=C3.O=C([O:20])C4=CC=CC=C4 11-11,12;12,20-11,12;12,20-20",Room Temperature,Propagation,retroaddition
"CCC(C)C[CH2:10].[Cl:20][Cl:21]>>CCC(C)C[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:10][Br:11].[CH3:1][CH2:2][CH:3]([CH3:9])[CH:4]([C:6]([CH3:7])[CH3:8])[Br:5]>>[H:10][C:6]([CH3:7])([CH3:8])[CH:4]([CH:3]([CH3:9])[CH2:2][CH3:1])[Br:5].[Br:11] 6-10,6;11,10-11;10,11-10,6",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C1CCC1.[Cl:10]>>[H:20][Cl:10].[CH2:21]C1CCC1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1CC[CH:10]CC1.[Cl:20][Cl:21]>>C1CC[CH:10](CC1)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:3][O:2][O:1].[O:4][O:5][O:6]>>[H:3][O:4][O:5][O:6].[O:2][O:1] 4-4,3; 2,3-4,3; 3,2-2",Room Temperature,Propagation,abstraction
